US06239074B1
47 g of bromobenzene in 90 ml of ether were added dropwise to 7.2 g of magnesium in 20 ml of ether under reflux, and the stirred mixture was refluxed for 1 hour. Thereafter, 9.9 g of methyl cyanoacetate were added dropwise while cooling with ice, and stirring was carried out for 1 hour at room temperature, for 5 hours under reflux and again for 15 hours at room temperature. 300 ml of ammonium chloride were carefully added to the reaction mixture and the aqueous phase was extracted twice with ether and the combined organic phases were washed three times with water, dried over sodium sulfate and evaporated down. The residue was distilled under greatly reduced pressure. 13 g of methyl β-amino-cinnamate were obtained (110-112° C., 10.15 mbar).

reactant | bromobenzene | 47 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 7.2 g | [Mg] | Mg
reactant | methyl cyanoacetate | 9.9 g | C(#N)CC(=O)OC | C4H5NO2
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | ether | 90 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | methyl β-amino-cinnamate | 13 g | NC(=CC(=O)OC)C1=CC=CC=C1 | C10H11NO2
